US04385177
(b) Z-2-Ethoxycarbamoylmethoxyimino-2-(fur-2-yl)acetic acid
This compound was prepared from ethyl chloroacetohydroxamate and Z-2-(fur-2-yl)-2-hydroxyimino acetic acid by the method described in Preparation 4, τ(DMSO d6) 2.15, 3.2, 3.39 (furyl), 5.48 (--OCH2CO--), 6.18 (--OCH2 --), 8.88 (--CH3). Yield 81%.

reactant | ethyl chloroacetohydroxamate | ClCC(=O)NOCC | C4H8ClNO2
reactant | Z-2-(fur-2-yl)-2-hydroxyimino acetic acid | O1C(=CC=C1)/C(/C(=O)O)=N/O | C6H5NO4
solvent | DMSO | CS(=O)C | C2H6OS
product | Z-2-Ethoxycarbamoylmethoxyimino-2-(fur-2-yl)acetic acid | Yield 81% | C(C)ONC(=O)CO\N=C(/C(=O)O)\C=1OC=CC1 | C10H12N2O6
